US08242133B2
To a mixture of 0.28 g of 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole, 0.50 g of potassium carbonate and 2 ml of DMF, a mixture of 0.15 g of 2-propanethiol and 0.5 ml of DMF was added. The reaction mixture was stirred while heating at 60° C. for two hours. The reaction mixture was cooled to room temperature, and then water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with 5% aqueous solution of potassium carbonate and a saturated sodium chloride solution, sequentially, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.26 g of 2-(3-isopropylthiopyridin-4-yl)-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 43”).

reactant | 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.28 g | FC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F4N2O
reactant | potassium carbonate | 0.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | 2-propanethiol | 0.15 g | CC(C)S | C3H8S
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(3-isopropylthiopyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.26 g | C(C)(C)SC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C16H13F3N2OS
